### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation/Discrete/Basic): add uniformizer API

### PR DESCRIPTION
**Pull request by mariainesdff**
We define uniformizers for discrete valuations.

Co-authored-by: @faenuccio 

---

- [x] depends on: #26587
- [x] depends on: #26846 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/GroupWithZero/Range.lean [hunk 1]
```diff
@@ -35,7 +35,7 @@ explicitly (see `MonoidWithZeroHom.mem_valueGroup_iff_of_comm`).
 all coincide: see `valueMonoid_eq_valueGroup` for an equality as submonoids and
 `valueMonoid_eq_valueGroup'` for an equality as subsets.
 * When `B` is a *commutative* group with zero, `MonoidWithZeroHom.valueGroup` can be
-explicitly described as the elements that are ratios of terms in `range f` , see
+explicitely described as the elements that are ratios of terms in `range f`, see
```
Comment (kbuzzard) [inline Mathlib/Algebra/GroupWithZero/Range.lean]:
```suggestion
explicitly described as the elements that are ratios of terms in `range f`, see
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 2]
```diff
@@ -23,21 +24,38 @@ discrete, we use the name `IsRankOneDiscrete` to refer to discrete valuations in
...
-* Define (pre)uniformizers for nontrivial discrete valuations.
 * Relate discrete valuations and discrete valuation rings (contained in the project
   <https://github.com/mariainesdff/LocalClassFieldTheory>)
 -/
 
 namespace Valuation
 
-open Set LinearOrderedCommGroup MonoidWithZeroHom
-open Function Multiplicative Set WithZero
+open LinearOrderedCommGroup MonoidWithZeroHom Set
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
open LinearOrderedCommGroup MonoidWithZeroHom Set Subgroup
```
And you can get rid of all but one `Subgroup.`

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 3]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+section IsRankOneDiscrete
+
+variable [hv : IsRankOneDiscrete v]
+
+/-- An element `π : A` is a uniformizer if `v π` is a generator of the value group that is `< 1`. -/
+def IsUniformizer (π : A) : Prop := v π = hv.generator
+
+open Subgroup
+
+variable {v}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
variable {v} {π : A}
```
And you can remove it from various declarations.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 4]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+
+@[simp]
+lemma val {π : A} (hπ : v.IsUniformizer π) : v π = hv.generator := hπ
+
+lemma val_lt_one {π : A} (hπ : v.IsUniformizer π) : v π < 1 :=
+  hπ ▸ hv.generator_lt_one
+
+lemma val_ne_zero {π : A} (hπ : v.IsUniformizer π) : v π ≠ 0 := by
+  by_contra h0
+  simp [IsUniformizer, h0] at hπ
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Non terminal `simp`.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 5]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+  exact (Units.ne_zero _).symm hπ
+
+theorem val_pos {π : A} (hπ : IsUniformizer v π) : 0 < v π := by
+  rw [IsUniformizer.iff] at hπ; simp [zero_lt_iff, ne_eq, hπ]
+
+lemma zpowers_eq_valueGroup {π : A} (hπ : v.IsUniformizer π) :
+    valueGroup v = zpowers (Units.mk0 (v π) hπ.val_ne_zero) := by
+  rw [← (valueGroup v).genLTOne_zpowers_eq_top]
+  congr
+  simp_all [IsUniformizer.val, Units.mk0_val]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
  simp only [val, Units.mk0_val, hπ]
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 6]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+
+section CommRing
+
+variable {R : Type*} [CommRing R] {v : Valuation R Γ} [hv : IsRankOneDiscrete v]
+
+theorem IsUniformizer.not_isUnit {π : v.integer} (hπ : IsUniformizer v π) : ¬ IsUnit π := by
+  intro h
+  have h1 : v ((algebraMap (↥v.integer) R) π) = 1 :=
+    Valuation.Integers.one_of_isUnit (Valuation.integer.integers v)  h
+  exact ne_of_gt hπ.val_lt_one h1.symm
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
  intro h
  apply ne_of_gt hπ.val_lt_one
  exact (Integers.one_of_isUnit (integer.integers v) h).symm
```
I personally find this version better, but as you wish (anyway `Valuation` is opened, you can remove `Valuation.` everywhere in the file).

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 7]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+
+variable [IsCyclic (valueGroup v)] [Nontrivial (valueGroup v)]
+
+theorem exists_isUniformizer_of_isCyclic_of_nontrivial : ∃ π : K₀, IsUniformizer v (π : K) := by
+  simp only [IsUniformizer.iff, Subtype.exists, mem_valuationSubring_iff, exists_prop]
+  set g := (valueGroup v).genLTOne with hg
+  have hg_mem : g.1 ∈ ((range v) \ {0}) := by
+    rw [← valueGroup_eq_range, hg]
+    exact mem_image_of_mem Units.val (valueGroup v).genLTOne_mem
+  obtain ⟨⟨π, hπ⟩, hγ0⟩ := hg_mem
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
  obtain ⟨⟨π, hπ⟩, hγ0⟩ : g.1 ∈ ((range v) \ {0}) := by
    rw [← valueGroup_eq_range, hg]
    exact mem_image_of_mem Units.val (valueGroup v).genLTOne_mem
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 8]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+    ← IsUniformizer.iff]
+
+/-- If two elements of `K₀` are uniformizers, then they are associated. -/
+theorem associated_of_isUniformizer {π₁ π₂ : K₀} (h1 : IsUniformizer v π₁)
+    (h2 : IsUniformizer v π₂) : Associated π₁ π₂ := by
+  have hval : v ((π₁ : K)⁻¹ * π₂) = 1 := by
+    simp [IsUniformizer.iff.mp h1, IsUniformizer.iff.mp h2]
+  set p : v.integer := ⟨(π₁.1 : K)⁻¹ * π₂.1, (v.mem_integer_iff _).mpr (le_of_eq hval)⟩ with hp
+  use ((Integers.isUnit_iff_valuation_eq_one (x := p) <| integer.integers v).mpr hval).unit
+  apply_fun ((↑·) : K₀ → K) using Subtype.val_injective
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
  apply_fun ((↑) : K₀ → K) using Subtype.val_injective
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 9]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+  simp [hp, ← mul_assoc, mul_inv_cancel₀ h1.ne_zero]
+
+theorem pow_Uniformizer {r : K₀} (hr : r ≠ 0) (π : Uniformizer v) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: I guess the name should mention `exists`.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 10]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+
+theorem Uniformizer.is_generator (π : Uniformizer v) :
+    maximalIdeal v.valuationSubring = Ideal.span {π.1} := by
+  apply (maximalIdeal.isMaximal _).eq_of_le
+  · intro h
+    rw [Ideal.span_singleton_eq_top] at h
+    apply π.2.not_isUnit h
+  · intro x hx
+    by_cases hx₀ : x = 0
+    · simp only [hx₀, Ideal.zero_mem]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
    · simp [hx₀]
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 11]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+    · obtain ⟨n, ⟨u, hu⟩⟩ := pow_Uniformizer hx₀ π
+      rw [← Subring.coe_mul, Subtype.coe_inj] at hu
+      have hn : Not (IsUnit x) := fun h ↦
+        (maximalIdeal.isMaximal _).ne_top (eq_top_of_isUnit_mem _ hx h)
+      replace hn : n ≠ 0 := fun h ↦ by
+        simp only [hu, h, pow_zero, one_mul, Units.isUnit, not_true] at hn
+      simp only [Ideal.mem_span_singleton, hu, IsUnit.dvd_mul_right, Units.isUnit,
+        dvd_pow_self _ hn]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
      simp [Ideal.mem_span_singleton, hu, dvd_pow_self _ hn]
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 12]
```diff
@@ -111,6 +134,248 @@ instance [IsRankOneDiscrete v] : v.IsNontrivial := by
...
+
+theorem pow_Uniformizer_is_pow_generator (π : Uniformizer v) (n : ℕ) :
+    maximalIdeal v.valuationSubring ^ n = Ideal.span {π.1 ^ n} := by
+  rw [← Ideal.span_singleton_pow, Uniformizer.is_generator]
+
+end Uniformizer
+
 end IsRankOneDiscrete
 
+theorem not_isField [Nontrivial ↥(valueGroup v)] [IsCyclic (valueGroup v)] : ¬ IsField K₀ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
theorem not_isField [Nontrivial (valueGroup v)] [IsCyclic (valueGroup v)] : ¬ IsField K₀ := by
```
Also, the name is now `Valuation.not_isField`, maybe it should mention what is not a field.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: I golfed your suggestion to term mode.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean (hunk 12 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Renamed to `Valuation.valuationSubring_not_isField`.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean (hunk 9 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Renamed to `exists_pow_Uniformizer`. Thanks for reviewing!
